US08304419B2
Step C: 3-Chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-(2-hydroxyethyl)-1H-pyrrole-2-carboxamide
HATU (0.057 g, 0.15 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.047 g, 0.15 mmol), 3-chloro-5-(2-hydroxyethyl)-1H-pyrrole-2-carboxylic acid (0.028 g, 0.15 mmol) and DIPEA (0.026 mL, 0.150 mmol) in DMF (2 mL). The resulting solution was stirred for 2 hours then partitioned between water and EtOAc. The organic layer was separated, dried over MgSO4 and evaporated to a residue. The residue was purified by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.0016 g, 2%) as a film. 1H NMR (400 MHz, Acetone-d6) δ ppm 7.60-7.68 (m, 1H), 7.48-7.53 (m, 1H), 7.41-7.45 (m, 2H), 7.37-7.40 (m, 2H), 6.03 (d, 1H), 4.69 (d, 2H), 3.78 (t, 2 H), 2.82 (t, 2H). LCMS: m/z=479.9 (M−1).

reactant | HATU | 0.15 mmol, 0.057 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.15 mmol, 0.047 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 3-chloro-5-(2-hydroxyethyl)-1H-pyrrole-2-carboxylic acid | 0.15 mmol, 0.028 g | ClC1=C(NC(=C1)CCO)C(=O)O | C7H8ClNO3
reactant | DIPEA | 0.150 mmol, 0.026 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-(2-hydroxyethyl)-1H-pyrrole-2-carboxamide | 0.0016 g, 2% | ClC1=C(NC(=C1)CCO)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C21H15Cl3FN3O3
